US04233452
A mixture of 4-aminobenzonitrile (50 g., 0.42 mole), 2,5-dimethoxytetrahydrofuran (56 g., 0.42 mole) and 4 A molecular sieves (184 g) in toluene (560 ml) was heated under reflux for 24 hrs. The residue from evaporation was washed with pet. ether and then recrystallized from diisopropyl ether to yield 42.5 g (60%) of 4-(1-pyrrolyl)-benzonitrile, m.p. 104°-106° C.

reactant | 4-aminobenzonitrile | 0.42 mole, 50 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | 2,5-dimethoxytetrahydrofuran | 0.42 mole, 56 g | COC1OC(CC1)OC | C6H12O3
solvent | toluene | 560 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1-pyrrolyl)-benzonitrile | 42.5 g, 60% | N1(C=CC=C1)C1=CC=C(C#N)C=C1 | C11H8N2
